US08309580B2
(1) ethyl 3-{[(4-{[cyclohexyl(2-methyl-5-{4-[3-(methylsulfinyl)propoxy]phenyl}furan-3-yl)methyl]amino}phenyl)carbonyl]amino}propanoate
Ethyl 3-{[(4-{[cyclohexyl(2-methyl-5-{4-[3-(methylsulfanyl)propoxy]phenyl}furan-3-yl)methyl]amino}phenyl)carbonyl]amino}propanoate (296 mg) was dissolved in methanol (9 mL) and water (1 mL), OXONE (277 mg) was added, and the mixture was stirred at room temperature for 30 min. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (0% methanol/ethyl acetate to 20% methanol/ethyl acetate) to give the title compound (278 mg, 91%) as an oil.

reactant | Ethyl 3-{[(4-{[cyclohexyl(2-methyl-5-{4-[3-(methylsulfanyl)propoxy]phenyl}furan-3-yl)methyl]amino}phenyl)carbonyl]amino}propanoate | 296 mg | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)OCCCSC)C)NC1=CC=C(C=C1)C(=O)NCCC(=O)OCC | C34H44N2O5S
reactant | OXONE | 277 mg | OOS(=O)[O-].[K+]
solvent | methanol | 9 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | ethyl 3-{[(4-{[cyclohexyl(2-methyl-5-{4-[3-(methylsulfinyl)propoxy]phenyl}furan-3-yl)methyl]amino}phenyl)carbonyl]amino}propanoate | 278 mg, 91% | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)OCCCS(=O)C)C)NC1=CC=C(C=C1)C(=O)NCCC(=O)OCC | C34H44N2O6S
